US05138069
Preparation of 2-n-Butyl-4-chloro-5-methoxymethyl-1-[(2'-((tetrazol-5-yl)aminocarbonyl)biphenyl-4-yl)-methyl]imidazole
2-n-Butyl-1-[(2'-carboxybiphenyl-4-yl)methyl]-4-chloro-5-(methoxymethyl)imidazole (1.0 g) was first converted to the corresponding acid chloride and then coupled to 5-aminotetrazole by the procedure in Example 78, Part C to yield 0.87 g of a yellow glass. Flash chromatography in 100% ethyl acetate over silica gel yielded 77.1 mg of a white solid; m.p. 169°-173°. NMR (200 MHz, CDCl3, DMSO-d6)δ12.0 (br s, 1H); 7.73-7.30 (m, 6H); 7.00 (d, 2H, J=7 Hz); 5.18 (s, 2H); 4.23 (s, 2H); 2.55 (t, 2H, J=7 Hz) 1.63 (t of t, 2H, J=7,7 Hz); 1.31 (t of q, 2H, J=7,7 Hz); 0.84 (t, 3H, J=7 Hz). Anal. Calcd. for C24H26ClN7O2 · (H2O)2 : C, 55.87; H, 5.86. Found: C, 56.01; H, 6.01.

reactant | 2-n-Butyl-1-[(2'-carboxybiphenyl-4-yl)methyl]-4-chloro-5-(methoxymethyl)imidazole | 1.0 g | C(CCC)C=1N(C(=C(N1)Cl)COC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)O | C23H25ClN2O3
reactant | 5-aminotetrazole | NC1=NN=NN1 | CH3N5
product | 2-n-Butyl-4-chloro-5-methoxymethyl-1-[(2'-((tetrazol-5-yl)aminocarbonyl)biphenyl-4-yl)-methyl]imidazole | 0.87 g | C(CCC)C=1N(C(=C(N1)Cl)COC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)NC1=NN=NN1 | C24H26ClN7O2
